US09029409B2
To a stirred solution of N-(4-fluoro-3-methoxybenzyl)-2-methyl-6-(5-(piperidin-4-yl)-4,5-dihydroisoxazol-3-yl)pyrimidine-4-carboxamide hydrochloride (0.20 g, 0.43 mmol Preparation #K. 1) in DCM (10 mL) was added TEA (0.13 g, 1.29 mmol, Spectrochem) and perfluorophenyl-2-(methylsulfonyl)acetate (0.196 g, 0.645 mmol, See Ref: US 20090312338). The resulting solution was stirred at RT for about 16 h. The crude reaction mixture was purified by preparative HPLC (Table 2, Method f) to afford N-(4-fluoro-3-methoxybenzyl)-2-methyl-6-(5-(1-(2-(methylsulfonyl)acetyl)piperidin-4-yl)-4,5-dihydroisoxazol-3-yl)pyrimidine-4-carboxamide 0.072 g (31.3%); LC/MS (Table 1, Method d) Rt=0.55 min; MS m/z: 548.3 (M+H)+.

reactant | N-(4-fluoro-3-methoxybenzyl)-2-methyl-6-(5-(piperidin-4-yl)-4,5-dihydroisoxazol-3-yl)pyrimidine-4-carboxamide hydrochloride | 0.43 mmol, 0.20 g | Cl.FC1=C(C=C(CNC(=O)C2=NC(=NC(=C2)C2=NOC(C2)C2CCNCC2)C)C=C1)OC
reactant | perfluorophenyl-2-(methylsulfonyl)acetate | 0.645 mmol, 0.196 g | FC(C(=O)[O-])(S(=O)(=O)C(F)(F)F)C1=C(C(=C(C(=C1F)F)F)F)F
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | N-(4-fluoro-3-methoxybenzyl)-2-methyl-6-(5-(1-(2-(methylsulfonyl)acetyl)piperidin-4-yl)-4,5-dihydroisoxazol-3-yl)pyrimidine-4-carboxamide | 0.072 g, 31.3% | FC1=C(C=C(CNC(=O)C2=NC(=NC(=C2)C2=NOC(C2)C2CCN(CC2)C(CS(=O)(=O)C)=O)C)C=C1)OC | C25H30FN5O6S
